US03946036
a. 4-mercapto-phenyl-acetic acid
A solution of 27.6 g of sodium nitrite in 200 cc of water is added dropwise at 0°, while stirring, to a suspension of 60.4 g of 4-aminophenyl-acetic acid in 200 cc of water and 80 cc of concentrated hydrochloric acid. After the addition is complete, the reaction mixture is stirred at the same temperature for a further 45 minutes. This cold diazonium salt solution is then added dropwise at room temperature to a mixture of 74 g of potassiumethyl xanthogenate, 120 cc of water and 300 cc of a 2 N soda solution, and heating is effected to 45° until gas evolution stops. The mixture is subsequently cooled to room temperature, the pH is adjusted to 1 with concentrated hydrochloric acid and the oiled xanthogenate ester is extracted with ether. After removing the solvent by distillation, the ester is taken up in 500 cc of ethanol, a solution of 90 g of potassium hydroxide in 500 cc of water is added and boiling at reflux is effected for 20 hours. The major portion of the ethanol is subsquently removed by the distillation at reduced pressure, the aqueous phase is cooled with ice, rendered acid with concentrated hydrochloric acid while stirring well, and extracted with ether. The ether extract is dried over sodium sulphate, the solvent is removed by distillation, whereby 4-mercapto-phenylacetic acid crystallizes. After recrystallization from ether/pentane, the acid has a M.P. of 101° to 103°.

reactant | sodium nitrite | 27.6 g | N(=O)[O-].[Na+]
reactant | 4-aminophenyl-acetic acid | 60.4 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | potassiumethyl xanthogenate | 74 g | CCOC(=S)[S-].[K+]
solvent | water | 200 cc | O | H2O
solvent | water | 200 cc | O | H2O
solvent | hydrochloric acid | 80 cc | Cl | ClH
solvent | water | 120 cc | O | H2O
product | 4-mercapto-phenyl-acetic acid | SC1=CC=C(C=C1)CC(=O)O | C8H8O2S
